US07612068B2
5-Chloro-2-(3-fluoro-phenylsulfanyl)-phenol
A solution of 4-chloro-1-(3-fluoro-phenylsulfanyl)-2-methoxybenzene (3.12 g, 11.6 mmol) in dry toluene (60 mL) was cooled to 0° C. Neat BBr3 (1.50 mL, 15.9 mmol) was added dropwise and the mixture was allowed to reach room temperature overnight. The mixture was quenched by the addition of H2O/ice (50 mL) and diethyl ether (50 mL). The aqueous layer was extracted with diethylether (2×50 mL). The combined organic layers were washed with brine, dried over Na2SO4 and adsorbed onto silica gel. After flash chromatography using silica gel, eluting with heptanes/EtOAc, 95:5, the title compound was obtained as a light yellow oil (2.26 g, 77%).

reactant | 4-chloro-1-(3-fluoro-phenylsulfanyl)-2-methoxybenzene | 11.6 mmol, 3.12 g | ClC1=CC(=C(C=C1)SC1=CC(=CC=C1)F)OC | C13H10ClFOS
reactant | BBr3 | 15.9 mmol, 1.50 mL | B(Br)(Br)Br | BBr3
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-(3-fluoro-phenylsulfanyl)-phenol | ClC=1C=CC(=C(C1)O)SC1=CC(=CC=C1)F | C12H8ClFOS
